US06214817B1
Oxalyl chloride (126.93 g, 154 mmol) and CH2Cl2 (80 mL) were placed in a 1 L, 3-neck round bottomed flask. The solution was cooled to −60° C. To the cooled solution, DMSO (24 mL) in CH2Cl2 (80 mL) was added over a 5 minutes period via dropping funnel. After 10 minutes, 4-chloro-2,6-dihydroxymethyl pyridine (12.13 g, 69.9 mmol) in DMSO (40 mL) was added over 5 minutes, also via dropping funnel. After 20 min., triethylamine (200 mL) was added and the reaction was stirred at −60° C. for an additional 5 minutes. The reaction mixture was then allowed to reach room temperature. Water (400 mL) was added to the flask. The aqueous mixture was extracted with several portions of CH2Cl2 and the organic fractions were added together, dried over Na2SO4, filtered and concentrated. The crude product was eluted through a silica gel (Aldrich 200-400 mesh, 60 Å) column with CH2Cl2 to give 8.20 g (69% yield) of pure 4-chloropyridine-2,6-dicarboxaldehyde as a bright yellow solid. 1H NMR (300 MHz, CDCl3) δ 10.12 (s), 8.11 (s). 13C NMR (CD3OD, 100 MHz) δ 191.26, 154.24, 147.55, 125.53•mp=163° C.

reactant | Oxalyl chloride | 154 mmol, 126.93 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-2,6-dihydroxymethyl pyridine | 69.9 mmol, 12.13 g | ClC1=CC(=NC(=C1)CO)CO | C7H8ClNO2
reactant | triethylamine | 200 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 400 mL | O | H2O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | DMSO | 24 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-chloropyridine-2,6-dicarboxaldehyde | 8.20 g, 69% yield | ClC1=CC(=NC(=C1)C=O)C=O | C7H4ClNO2
